US05198452
By the use of 0.43 g of 2-[(E)-2-(3-aminophenyl)ethenyl]-6-[4-(4-methoxyphenyl)butoxy]methylpyridine, 0.24 g of anhydrous dimethyl glutamate, 0.31 g of sodium acetate and 10 ml of dimethoxyethane, the reaction was similarly carried out as Example 1(3). To the obtained residue were added isopropyl ether and n-hexane and then the residue was collected by filtration. Further, the residue was dissolved in chloroform, and filtered off and then the solvent was distilled off. To the residue were added isopropyl ether and n-hexane and the mixture was filtered off to give 0.3 g of 2-[(E)-2-(3-(4-carboxy-4-methylvalerylamino)phenyl)ethenyl]-6-[4-(4-methoxyphenyl)butoxy]methylpyridine, melting at 141°-142° C. as white crystals.

reactant | 2-[(E)-2-(3-aminophenyl)ethenyl]-6-[4-(4-methoxyphenyl)butoxy]methylpyridine | 0.43 g | NC=1C=C(C=CC1)/C=C/C1=NC(=CC=C1)COCCCCC1=CC=C(C=C1)OC | C25H28N2O2
reactant | dimethyl glutamate | 0.24 g | N[C@@H](CCC(=O)OC)C(=O)OC | C7H13NO4
reactant | sodium acetate | 0.31 g | C(C)(=O)[O-].[Na+]
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | n-hexane | CCCCCC | C6H14
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
product | 2-[(E)-2-(3-(4-carboxy-4-methylvalerylamino)phenyl)ethenyl]-6-[4-(4-methoxyphenyl)butoxy]methylpyridine | 0.3 g | C(=O)(O)C(CCC(=O)NC=1C=C(C=CC1)/C=C/C1=NC(=CC=C1)COCCCCC1=CC=C(C=C1)OC)(C)C | C32H38N2O5
